US05500417
([1,1 '-Biphenyl]-4-ylmethyl)phosphonic acid dimethyl ester
A solution of 4-(chloromethyl)biphenyl (4.12 g, 0.020 M) in trimethylphosphate (10 mL, 10.5 g, 0.085 M) is heated at reflux temperature for 60 hours. The excess trimethylphosphite is removed under reduced pressure and the solid residue is chromatographed (400 g of 40-63 μm silica gel, 50 mL fractions). The sample is applied to the column in a minimum amount of EtOAc and the column is eluted with 50% EtOAc-hexane (1.2 L), 75% EtOAc-hexane (2 L), and with EtOAc. Fractions 88-136 contained the dimethyl ester (4.98 g, 0.0180 M, 90%) which is crystallized from ether-pentane to give 4.09 g of title compound as white crystals, mp 70°-71° C.(fused), 76.5°-77.5° C.

reactant | 4-(chloromethyl)biphenyl | 0.020 M, 4.12 g | ClCC1=CC=C(C=C1)C1=CC=CC=C1 | C13H11Cl
reactant | trimethylphosphate | 0.085 M, 10 mL, 10.5 g | COP(=O)(OC)OC | C3H9O4P
product | ([1,1 '-Biphenyl]-4-ylmethyl)phosphonic acid dimethyl ester | 4.09 g | COP(OC)(=O)CC1=CC=C(C=C1)C1=CC=CC=C1 | C15H17O3P
